US04272449
To a solution of 4.25 g (20 mmol) of 2-(4-chlorophenyl)-3-methylbutanoic acid in 30 ml of ether containing one drop of N,N-dimethylformamide is added dropwise 3.81 g (30 mmol) of oxalyl chloride. The solution is stirred at RT until gas evolution ceases. The solvent and excess oxalyl chloride are removed in vacuo and the residue is taken up in 30 ml of ether. This solution is then added dropwise at 0°-5° to 4.86 g (40 mmol) of a 14% w/w aqueous solution of ammonia. After stirring the mixture for 30 minutes at 0°-5°, the aqueous layer is removed. The ethereal solution is washed with water, dried over sodium sulfate, filtered and concentrated in vacuo to obtain 2-(4-chlorophenyl)-3-methylbutyramide.

reactant | 2-(4-chlorophenyl)-3-methylbutanoic acid | 20 mmol, 4.25 g | ClC1=CC=C(C=C1)C(C(=O)O)C(C)C | C11H13ClO2
reactant | oxalyl chloride | 30 mmol, 3.81 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
catalyst | ether | 30 ml | CCOCC | C4H10O
product | 2-(4-chlorophenyl)-3-methylbutyramide | ClC1=CC=C(C=C1)C(C(=O)N)C(C)C | C11H14ClNO
